US05604229
1,3-Diacetoxy-2-octadecyl-2-(N-pentanoylamino)propane (400 mg) was dissolved in 8 ml of methanol and 17 mg of a 28% sodium methoxide-methanol solution was added thereto. The mixture was stirred at room temperature for 1 hour. Concentrated hydrochloric acid-methanol (1:11, 0.088 ml) was added thereto and the mixture was concentrated. The concentrate was subjected to silica gel column chromatography using chloroform-methanol (30:1) as an eluent. The resultant crystals were recrystallized from chloroform-hexane to give 312 mg of colorless, crystalline 2-octadecyl-2-(N-pentanoylamino)-1,3-propanediol.

reactant | 1,3-Diacetoxy-2-octadecyl-2-(N-pentanoylamino)propane | 400 mg | C(C)(=O)OCC(COC(C)=O)(NC(CCCC)=O)CCCCCCCCCCCCCCCCCC | C30H57NO5
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | hydrochloric acid methanol | 0.088 ml | Cl.CO
solvent | methanol | 8 ml | CO | CH4O
product | 2-octadecyl-2-(N-pentanoylamino)-1,3-propanediol | C(CCCCCCCCCCCCCCCCC)C(CO)(CO)NC(CCCC)=O | C26H53NO3
